US03956500
PREPARATION OF 4-(METHOXYMETHYLCARBAMOYLOXIMINO)-5-METHYL-1,3-OXATHIOLANE
A quantity of 5 ml of methoxymethyl isocyanate was caused to react with 5 grams of 4-oximino-5-methyl-1,3-oxathiolane dissolved in 100 ml of anhydrous ether containing 10 drops of triethylamine over a period of 48 hours at room temperature. Conventional workup and recrystallization from isopropyl ether/ethyl acetate afforded 5.5 grams of product, mp 78°-79°; structure confirmed by spectral analysis.

reactant | methoxymethyl isocyanate | 5 ml | COCN=C=O | C3H5NO2
reactant | 4-oximino-5-methyl-1,3-oxathiolane | 5 grams | N(O)=C1SCOC1C | C4H7NO2S
catalyst | ether | 100 ml | CCOCC | C4H10O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 4-(METHOXYMETHYLCARBAMOYLOXIMINO)-5-METHYL-1,3-OXATHIOLANE | 5.5 grams | COCNC(=O)ON=C1SCOC1C | C7H12N2O4S
